US07968720B2
{2-[3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethyl}-(2,2-difluoro-ethyl)carbamic Acid tert-butyl Ester
A mixture of methanesulfonic acid 2-[3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethyl ester (7.50 g, 19.8 mmol) and 2,2-difluoroethylamine (5.05 g, 62.3 mmol) in EtOH (20 mL) was stirred at 60° C. overnight. The mixture was allowed to cool to rt, and the solvents were removed under reduced pressure. The residue was dried under high vacuum, and was dissolved in CH2Cl2 (200 mL). The mixture was cooled to 0° C., and Et3N (9.64 mL, 69.2 mmol) and Boc2O (6.05 g, 27.7 mmol) were added. The mixture was stirred overnight while warming up to rt. CH2Cl2 (120 mL) was added, and the mixture was washed with aq. 1M HCl, aq. sat. NaHCO3, and brine. The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (heptane→EtOAc/heptane 1:19) yielded the title compound (8.00 g, quantitative yield) that still contained tert-butanol as impurity. LC-MS: tR=0.91 min; ES+: 364.49.

reactant | methanesulfonic acid 2-[3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethyl ester | 19.8 mmol, 7.50 g | C(C)(C)(C)[SiH2]OC(C=1C=C(C=CC1Cl)CCOS(=O)(=O)C)(C)C | C16H27ClO4SSi
reactant | 2,2-difluoroethylamine | 62.3 mmol, 5.05 g | FC(CN)F | C2H5F2N
reactant | Et3N | 69.2 mmol, 9.64 mL | CCN(CC)CC | C6H15N
reactant | Boc2O | 27.7 mmol, 6.05 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | EtOH | 20 mL | CCO | C2H6O
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
solvent | CH2Cl2 | 120 mL | C(Cl)Cl | CH2Cl2
product | {2-[3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethyl}-(2,2-difluoro-ethyl)carbamic Acid tert-butyl Ester | 8.00 g, quantitative yield | C(C)(C)(C)OC(N(CC(F)F)CCC1=CC(=C(C=C1)Cl)C(O[SiH2]C(C)(C)C)(C)C)=O | C22H36ClF2NO3Si
